US04420479
Following the general procedure of Example 23, N-methyl-N-trimethylsilylacetamide was reacted with 1-isopropylsulfonyl-2-amino-6-benzoylbenzimidazole in the presence of n-butyl lithium to provide 1-isopropylsulfonyl-2-amino-6-(α-hydroxy-α-methylaminocarbonylmethylbenzyl)benzimidazole. M.P. 92°-95° C.

reactant | N-methyl-N-trimethylsilylacetamide | CN(C(C)=O)[Si](C)(C)C | C6H15NOSi
reactant | 1-isopropylsulfonyl-2-amino-6-benzoylbenzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)N | C17H17N3O3S
reactant | n-butyl lithium | C(CCC)[Li]
product | 1-isopropylsulfonyl-2-amino-6-(α-hydroxy-α-methylaminocarbonylmethylbenzyl)benzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)(CC(=O)NC)O)N | C20H24N4O4S
